* D:\MyRepos\SHVFeedthroughFilter\SHVFeedthroughFilter.asc
C1 P001 0 16.2n
L1 N002 P001 0.278n
C4 N002 N001 0.25p
C5 N003 N002 0.25p
R4 P002 N001 100Meg
R5 N003 P003 100Meg
L4 N002 P002 21n
L2 N001 N004 7n
L3 N005 N003 7n
L5 P003 N002 21n
V§AC1 N004 0 AC 1. Rser=50
R1 N005 0 50
C2 N001 0 1.8p
C3 N003 0 1.8p
.ac dec 1000 10 100G
.backanno
.end
